US04344945
In this reference example, 1.10 g of 1-benzyl-4-[N-(o-aminobenzyl)-amino]-piperidine trihydrochloride is mixed with 5 ml of water. Then, 15 ml of 1 N aqueous sodium hydroxide is added to the solution with cooling. The mixture is extracted with 20 ml of chloroform four times. The chloroform layer is washed with 20 ml of water two times. The resultant layer is dried and concentrated under reduced pressure to obtain 670 mg of 1-benzyl-4-[N-(o-aminobenzyl)amino]-piperidine as an oily residue.

reactant | 1-benzyl-4-[N-(o-aminobenzyl)-amino]-piperidine trihydrochloride | 1.10 g | Cl.Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)NCC1=C(C=CC=C1)N
reactant | sodium hydroxide | 1 N, 15 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 1-benzyl-4-[N-(o-aminobenzyl)amino]-piperidine | 670 mg | C(C1=CC=CC=C1)N1CCC(CC1)NCC1=C(C=CC=C1)N | C19H25N3
